US04996218
5-[6-[(6-Bromohexyl)oxy]hexyl]pyrimidine
A mixture of 5-pyrimidinehexanol (1.82 g), 50% sodium hydroxide (6 ml), 1,6-dibromohexane (6 ml) and TAB (150 mg) was vigorously stirred at room temperature for 30 h then diluted with water (20 ml) and ether (25 ml). The organic phase was dried and evaporated in vacuo. The residue was purified by FCC eluting with hexane followed by hexane-ether (1:1) and ether, to give the title compound as a colourless liquid (2.21 g), t.l.c. (ether) Rf 0.35.

reactant | 5-pyrimidinehexanol | 1.82 g | N1=CN=CC(=C1)CCCCCCO | C10H16N2O
reactant | sodium hydroxide | 6 ml | [OH-].[Na+]
reactant | 1,6-dibromohexane | 6 ml | BrCCCCCCBr | C6H12Br2
solvent | water | 20 ml | O | H2O
solvent | ether | 25 ml | CCOCC | C4H10O
product | 5-[6-[(6-Bromohexyl)oxy]hexyl]pyrimidine | 2.21 g | BrCCCCCCOCCCCCCC=1C=NC=NC1 | C16H27BrN2O
